US05939460
N-(3,5-Dimethoxy-4-Hydroxybenzylidene)Aniline
3,5-Dimethoxy-4-hydroxybenzaldehyde (1 g, 5.46 mmol) was dissolved in methanol (50 ml) and aniline (560 mg, 6.01 mmol, 0.35 ml, neat liquid) was added to the solution by syringe. The resultant reaction mixture was stirred overnight at room temperature under nitrogen then taken to dryness in vacuo. The yellow crystals thus obtained were triturated with hot ether, allowed to cool, filtered and the collected solid was washed with ether to yield the title product: 1H NMR (300 MHZ, CDCl3) δ , 8.33 (S, 1H), 7.42-7.39 (m, 2H), 7.21-7.18 (m, 5H), 5.84 (S, 1H), 3.98 (S, 6H).

reactant | 3,5-Dimethoxy-4-hydroxybenzaldehyde | 5.46 mmol, 1 g | COC=1C=C(C=O)C=C(C1O)OC | C9H10O4
reactant | aniline | 6.01 mmol, 0.35 ml, 560 mg | NC1=CC=CC=C1 | C6H7N
solvent | methanol | 50 ml | CO | CH4O
product | N-(3,5-Dimethoxy-4-Hydroxybenzylidene)Aniline | COC=1C=C(C=NC2=CC=CC=C2)C=C(C1O)OC | C15H15NO3
